US04131744
46 g. (0.34 moles) of N-methylphenethylamine are reduced by treatment with 16 g. of lithium (2.3 g. atom) in 1.5 1. of ammonia and 250 ml. ethanol according to the procedure of Example 1(a) to yield crude N-methyldihydrophenethylamine.

reactant | N-methylphenethylamine | 0.34 moles | CNCCC1=CC=CC=C1 | C9H13N
reactant | lithium | 2.3 g | [Li] | Li
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | N-methyldihydrophenethylamine | CNCCC1CC=CC=C1 | C9H15N
